US04128411
EXAMPLE 4: Borax Glass
Sodium tetraborate (Na2B4O7.10H2O), analyzed reagent was dried overnight at 150° C, mixed with the appropriate quantity of dopant ions and homogenized in an electric homogenizer (vibrator) during 10 minutes. The material was then transferred to a platinum crucible and heated at 1100° C for at least 30 minutes, until a clear transparent solution was obtained. The glass matrix loses water and the composition of the matrix is after the heating 35(Na2O).65(B2O3). A drop of the hot melt was allowed to fall directly onto a clean white glazed ceramic surface, into the center of a space ring of 1 mm thickness, and pressed with a second ceramic tile to produce a glass disk of 1 mm thickness and an approximate diameter of 12 mm. The glass is transparent in the ultraviolet and in the visible part of the spectrum.

reactant | Sodium tetraborate | B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].B([O-])([O-])[O-].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+].[Na+]
solvent | water | O | H2O
product | Borax Glass | B1(OB2OB(OB(O1)O2)[O-])[O-].[Na+].[Na+] | InChI=1S/B4O7.2Na/c5-1-7-3-9-2(6)10-4(8-1)11-3;;/q-2;2*+1
